### PR TITLE
Cleanup `Psi.lean`

### PR DESCRIPTION
**Pull request by JasperMS**
Refactor most lemmas into `enorm`, remainder is marked as private.

There will be a merge conflict with #482 hence marked as draft. After #482 lands, further cleanup is likely possible.

### CODE REVIEW

File: Carleson/Psi.lean [hunk 1]
```diff
@@ -648,214 +628,201 @@ private lemma four_D_rpow_a_inv : (4 * D : ℝ) ^ (a : ℝ)⁻¹ ≤ 2 ^ (1 + 
...
--- Part of the inequality needed for `norm_Ks_sub_Ks_le₀`.
-private lemma norm_Ks_sub_Ks_le₀₀ {s : ℤ} {x y y' : X} (hK : Ks s x y ≠ 0)
-     (hyy' : 2 * dist y y' ≤ dist x y) : ‖K x y - K x y'‖ * |ψ (D ^ (-s) * dist x y')| ≤
-    (2 : ℝ) ^ (1 + (𝕔 + 2) * a + (𝕔 + 1) * a ^ 3) / volume.real (ball x (D ^ s)) *
-    (dist y y' / D ^ s) ^ (a : ℝ)⁻¹ := by
-  have D1 := D1 X
-  have d0 : dist x y > 0 :=
-    lt_of_lt_of_le (by positivity) (mem_Icc.1 (dist_mem_Icc_of_Ks_ne_zero hK)).1
-  apply le_trans <| mul_le_mul_of_nonneg_left (abs_ψ_le_one D _) (norm_nonneg (K x y - K x y'))
+private lemma enorm_Ks_sub_Ks_le_y'close_pt1 {s : ℤ} {x y y' : X} (hK : Ks s x y ≠ 0)
```
Comment (fpvandoorn) [inline Carleson/Psi.lean]: We don't really use `'` as a word separator. EDIT: Oh this is the variable name `y'`. We also avoid variable names in lemma statements... Maybe rename to `enorm_Ks_sub_Ks_le_close_pt1` (or `enorm_Ks_sub_Ks_le_right_close_pt1`, where `right` indicates the second/rightmost argument) or something?

Otherwise, LGTM
